US04088681
If the procedure of Example 8 is followed but instead of 28 g of 2,2,6-trimethyl-cyclohexanone 31 g of 2,2,3,6-tetramethyl-cyclohexanol are employed, fractional distillation gives 9.6 g of unconverted tetramethyl-cyclohexanone and 21 g (corresponding to 73% of theory, based on ketone converted) of 2,2,3,6-tetramethyl-1-(but-1'-yn-3'-en-1'-yl)-cyclohexanol of boiling point 66°-67° C/0.2 mm Hg and refractive index nD25 = 1.5018. Fragrance note: faintly floral, coniferous, fruity.

reactant | 2,2,6-trimethyl-cyclohexanone | 28 g | CC1(C(C(CCC1)C)=O)C | C9H16O
reactant | 2,2,3,6-tetramethyl-cyclohexanol | CC1(C(C(CCC1C)C)O)C | C10H20O
product | tetramethyl-cyclohexanone | 9.6 g | CC1(C(C(CCC1)=O)(C)C)C | C10H18O
